US07960394B2
3-Propyl-2-[4-(3-piperidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone
The entitled compound was obtained according to the method of Example 1 but starting from anthranilic acid, propylamine, 4-anisaldehyde, 1-chloro-3-bromopropane and piperidine.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | propylamine | C(CC)N | C3H9N
reactant | 4-anisaldehyde | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | 1-chloro-3-bromopropane | ClCCCBr | C3H6BrCl
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3-Propyl-2-[4-(3-piperidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone | C(CC)N1C(=NC2=CC=CC=C2C1=O)C1=CC=C(C=C1)OCCCN1CCCCC1 | C25H31N3O2
